US05688795
A solution of 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylbenzamide (0.55 g, 1.39 mmol) in 2 mL of 5% methanol/methylene chloride was acidified with 1.4 mL of 1M hydrochloric acid in methanol and then ether was added to give a precipitate. The supernatant was decanted and the precipitate was washed with ether, collected and dried to give 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylbenzamide hydrochloride (0.56 g, 1.27 mmol), m.p. 74°-79° C. Anal.: Calcd. for C23H32N4O2.HCl.(H2O)0.5 : C, 62.50; H, 7.75; N, 12.68%; Found: C, 62.27; H, 7.85; N, 13.02%.

reactant | 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylbenzamide | 1.39 mmol, 0.55 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=C1 | C23H32N4O2
reactant | hydrochloric acid | 1M, 1.4 mL | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol methylene chloride | 2 mL | CO.C(Cl)Cl
solvent | methanol | CO | CH4O
product | 2-{3-[4-(2-methoxyphenyl)piperazin-1-yl]propylamino}-N,N-dimethylbenzamide hydrochloride | 1.27 mmol, 0.56 g | Cl.COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)C)C=CC=C1 | InChI=1S/C23H32N4O2.ClH/c1-25(2)23(28)19-9-4-5-10-20(19)24-13-8-14-26-15-17-27(18-16-26)21-11-6-7-12-22(21)29-3;/h4-7,9-12,24H,8,13-18H2,1-3H3;1H
